data/rgd1/barriers/filtered.csv
rxn,smiles,ea
MR_614510_1,[C:1]1([O:7][H:9])([H:13])[C:2]([N:3]([O:6][H:8])[H:10])([H:14])[N:5]([H:12])[N:4]1[H:11]>>[C:1]([C:2]([N:3]([O:6][H:8])[H:10])([N:5]([N:4]([H:9])[H:11])[H:12])[H:14])(=[O:7])[H:13],32.57979999999719
MR_256558_2,[C:1]([O:5][N:3]([N:2]([N:4]([H:9])[H:10])[O:6][H:7])[H:8])([H:11])([H:12])[H:13]>>[C:1]([O:5][N:2]([N:3]([O:6][H:7])[H:8])[N:4]([H:9])[H:10])([H:11])([H:12])[H:13],52.34353999999982
MR_21489_1,[C:1]([C:4]([C:2]([H:13])([H:14])[H:15])=[C:5]([N:3]([C:6](=[C:7]([H:17])[H:18])[H:10])[H:8])[H:9])([H:11])([H:12])[H:16]>>[C:1]([C:4](=[C:2]([H:13])[H:15])[C:5]1([H:9])[N:3]([H:8])[C:6]1([C:7]([H:14])([H:17])[H:18])[H:10])([H:11])([H:12])[H:16],72.47311250000621
MR_186199_0,[C:1]([N:4]([H:9])[H:10])([N:7]([C:3]([C:2]([H:13])([H:14])[H:15])=[O:5])[O:6][H:8])([H:11])[H:12]>>[C:1]([N:4]([H:9])[H:10])([O:5]/[C:3]([C:2]([H:13])([H:14])[H:15])=[N:7]/[O:6][H:8])([H:11])[H:12],45.1756075000128
MR_200506_0,[C:1]([C:2](=[O:6])[H:7])([C:3](=[C:4]([H:9])[H:10])[H:8])=[O:5]>>[C:1]1(=[O:5])[C:2]([C:3](=[C:4]([H:9])[H:10])[H:8])([H:7])[O:6]1,60.83926250002307
MR_293571_0,[C:1]([N:3]([C:2]([H:13])([H:14])[H:15])[C:4]([O:6][H:8])=[O:7])([N:5]([H:9])[H:10])([H:11])[H:12]>>[C:1]([N:3]([C:2]([H:13])([H:14])[H:15])[N:5]([H:9])[H:10])([C:4]([O:6][H:8])=[O:7])([H:11])[H:12],68.39122500000357
MR_126997_0,[C:1]([C:3]([N:5]([H:11])[H:12])=[O:7])([C:4]([C:2]([H:13])([H:14])[H:15])=[O:8])([O:6][H:9])[H:10]>>[C:1](=[C:3](\[N:5]([H:11])[H:12])[O:7][C:4]([C:2]([H:13])([H:14])[H:15])=[O:8])(\[O:6][H:9])[H:10],57.81784999998251
MR_511303_1,[C:1]([C:3]([C:2]([O:7][H:11])([H:13])[H:14])=[O:8])([O:4][O:5][H:9])([O:6][H:10])[H:12]>>[C:1]1([O:6][H:10])([H:12])[C:3]([C:2]([O:7][H:11])([H:13])[H:14])([O:4][O:5][H:9])[O:8]1,56.97448999997164
MR_227451_1,[C:1]([N:4]([N:5]([C:2]([H:12])([H:14])[H:15])[C:3]([H:13])([H:16])[H:17])[N:6]([H:7])[H:8])([H:9])([H:10])[H:11]>>[C:1]([N:4]([N:6]([N:5]([C:2]([H:12])([H:14])[H:15])[C:3]([H:13])([H:16])[H:17])[H:7])[H:8])([H:9])([H:10])[H:11],63.577045000030665
MR_465005_1,[N:1]([C:2]([O:5][H:8])=[O:7])(/[N:6]=[C:4](/[N:3]([H:10])[H:11])[H:12])[H:9]>>[N:1](=[N:6]/[C:4]([C:2]([O:5][H:8])=[O:7])([N:3]([H:10])[H:11])[H:12])\[H:9],73.26062500001541
MR_670847_1,[C:1]1([N:6]([H:12])[H:13])([H:9])[C:3]([C:2]([H:16])([H:17])[H:18])(/[C:4]([N:5]([H:10])[H:11])=[N:8]/[H:15])[N:7]1[H:14]>>[C:1]([C:2]([H:16])([H:17])[H:18])([C:3](/[C:4]([N:5]([H:10])[H:11])=[N:8]/[H:15])=[N:7]/[H:14])([N:6]([H:12])[H:13])[H:9],63.3975799999844
MR_529772_0,[C:1]([C:4]1([C:6](=[C:3]([H:18])[H:19])[N:7]([H:10])[H:11])[C:5]([C:2]([H:15])([H:16])[H:17])([C:8]([H:20])([H:21])[H:22])[O:9]1)([H:12])([H:13])[H:14]>>[C:1](/[C:4](=[C:6](\[C:3]([H:18])([H:19])[H:20])[N:7]([H:10])[H:11])[O:9][C:5]([C:2]([H:15])([H:16])[H:17])=[C:8]([H:21])[H:22])([H:12])([H:13])[H:14],56.724744999995806
MR_14484_1,[C:1](/[C:4](=[N:7]/[O:6][H:8])[H:13])([O:5][C:2]([C:3]([H:14])([H:15])[H:16])([H:11])[H:12])([H:9])[H:10]>>[C:1]1([H:9])([H:10])[C:4]([N:7]([C:2]([C:3]([H:14])([H:15])[H:16])([H:11])[H:12])[O:6][H:8])([H:13])[O:5]1,72.9920549999801
MR_178599_2,[C:1]1([C:2]([C:4]([H:13])([H:14])[H:15])([O:7][H:8])[H:11])([H:10])[C:3]([C:5]([H:16])([H:17])[H:18])([H:12])[N:6]1[H:9]>>[C:1](\[C:3]([C:2]([C:4]([H:13])([H:14])[H:15])([O:7][H:8])[H:11])([C:5]([H:16])([H:17])[H:18])[H:12])(=[N:6]\[H:9])[H:10],65.8341625000034
MR_546793_0,[C:1]([N:2]([N:3]([N:4]([H:11])[H:12])[H:9])[H:8])([N:5]([H:13])[H:14])([O:6][H:7])[H:10]>>[C:1]([N:2]([O:6][H:7])[H:8])([N:3]([N:4]([H:11])[H:12])[H:9])([N:5]([H:13])[H:14])[H:10],70.75125250000184
MR_12102_1,[C:1]([C:2](=[C:3]([H:9])[H:10])[H:8])([O:4][H:5])([H:6])[H:7]>>[C:1](=[C:2](/[C:3]([H:7])([H:9])[H:10])[H:8])(\[O:4][H:5])[H:6],72.36330000001594
MR_658451_1,[C:1](/[C:2](=[N:4]/[N:3]=[O:5])[H:8])(=[O:6])[H:7]>>[C:1]1([O:6][N:3]=[O:5])([H:7])[C:2]([H:8])=[N:4]1,63.77972750001831
MR_106841_1,[C:1]([C:2]([H:13])([H:14])[H:15])([C:4]([N:3]([N:5]([H:11])[H:12])[H:9])=[O:7])([O:6][H:8])[H:10]>>[C:1]([C:2]([H:13])([H:14])[H:15])([N:3]([N:5]([H:11])[H:12])[H:9])([C:4](=[O:7])[H:10])[O:6][H:8],70.45569999999898
MR_14549_0,[C:1]1([C:3]([C:6]([O:8][H:10])=[O:9])([H:14])[H:15])([N:7]([H:12])[H:13])[C:2]([C:5]([H:18])([H:19])[H:20])([H:11])[C:4]1([H:16])[H:17]>>[C:1](=[C:3]([H:14])[H:15])([C:4]([C:2]([C:5]([H:18])([H:19])[H:20])([C:6]([O:8][H:10])=[O:9])[H:11])([H:16])[H:17])[N:7]([H:12])[H:13],49.60324749999856
MR_170752_1,[C:1]([C:4]1=[C:6]([H:11])[C:3]2([C:5](=[O:8])[H:10])[N:2]([H:9])[N:7]21)([H:12])([H:13])[H:14]>>[C:1]([c:4]1[c:6]([H:11])[c:3]([C:5](=[O:8])[H:10])[n:2]([H:9])[n:7]1)([H:12])([H:13])[H:14],26.462302499997605
MR_384891_1,[C:1](/[C:3]([N:4]([H:10])[H:11])=[N:8]/[O:7][H:9])([O:5][O:6][C:2]([H:14])([H:15])[H:16])([H:12])[H:13]>>[C:1]1([H:12])([H:13])[C:3]([N:4]([H:10])[H:11])([N:8]([O:6][C:2]([H:14])([H:15])[H:16])[O:7][H:9])[O:5]1,60.10885249997671
